US05198548
Step D: Preparation of D-(-) 3,3-Diphenylalanine
D (-)-3,3-Diphenylalanine hydrochloride (0.5 g) is dissolved in 15 mL of water and the pH of the solution is adjusted with dilute ammonium hydroxide solution to pH 7. The precipitate is collected by filtration, washed with water, boiled with water for a short time, cooled to room temperature, and collected to afford 0.2 g of the title compound; mp 218°-220° C. (dec.).

reactant | (-)-3,3-Diphenylalanine hydrochloride | 0.5 g | Cl.C1(=CC=CC=C1)C([C@H](N)C(=O)O)C1=CC=CC=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 15 mL | O | H2O
product | 3,3-Diphenylalanine | 0.2 g | C1(=CC=CC=C1)C([C@H](N)C(=O)O)C1=CC=CC=C1 | C15H15NO2
